US07662811B2
To a solution of (R)-(3-nitro-5-(2,2,2-trifluoroacetamido)-5,6,7,8-tetrahydronaphthalen-2-yl)methyl acetate (17 mg) in 10 mL of MeOH was added one drop of 96% H2SO4 and the resulting mixture was stirred at 50° C. for 3 h. After cooling to RT, the reaction was quenched with Sat. NaHCO3 (0.5 mL). The MeOH was evaporated and the residue was directly loaded on column chomatography (SiO2, DCM to DCM/EtOAc=2:1 to 1:1) to give (R)-2,2,2-trifluoro-N-(6-(hydroxymethyl)-7-nitro-1,2,3,4-tetrahydro-naphthalen-1-yl)acetamide as a white solid.

reactant | (R)-(3-nitro-5-(2,2,2-trifluoroacetamido)-5,6,7,8-tetrahydronaphthalen-2-yl)methyl acetate | 17 mg | C(C)(=O)OCC1=CC=2CCC[C@H](C2C=C1[N+](=O)[O-])NC(C(F)(F)F)=O | C15H15F3N2O5
solvent | MeOH | 10 mL | CO | CH4O
catalyst | H2SO4 | one drop | OS(=O)(=O)O | H2O4S
product | (R)-2,2,2-trifluoro-N-(6-(hydroxymethyl)-7-nitro-1,2,3,4-tetrahydro-naphthalen-1-yl)acetamide | FC(C(=O)N[C@@H]1CCCC2=CC(=C(C=C12)[N+](=O)[O-])CO)(F)F | C13H13F3N2O4
